US06756372B2
(b) [1-(4-cyano-tetrahydro-pyran-4-ylcarbamoyl)-2-cyclohexyl-ethyl]-amine hydrochloride
t-Butoxycarboxylic acid [1-(4-cyano-tetrahydro-pyran-4-ylcarbamoyl)-2-cyclohexyl-ethyl]-amide (1000 mg, 2.62 mmol) was dissolved in 15 mL of 4 M HCl in dioxane. The solution was stirred at ambient temperature for 1 hr. The volatiles were removed in vacuo and the resulting paste was triturated with 25 mL of diethyl ether to give a fine white solid that was collected by filtration and dried in vacuo. The product was used without further purification. benzamide.

reactant | t-Butoxycarboxylic acid [1-(4-cyano-tetrahydro-pyran-4-ylcarbamoyl)-2-cyclohexyl-ethyl]-amide | 2.62 mmol, 1000 mg | C(#N)C1(CCOCC1)NC(=O)C(CC1CCCCC1)NC(=O)OC(C)(C)C | C20H33N3O4
reactant | HCl | 4 M, 15 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | [1-(4-cyano-tetrahydro-pyran-4-ylcarbamoyl)-2-cyclohexyl-ethyl]-amine hydrochloride | Cl.C(#N)C1(CCOCC1)NC(=O)C(CC1CCCCC1)N | InChI=1S/C15H25N3O2.ClH/c16-11-15(6-8-20-9-7-15)18-14(19)13(17)10-12-4-2-1-3-5-12;/h12-13H,1-10,17H2,(H,18,19);1H
